US04006145
A stirred solution of 65 g of lithium borohydride in 1 litre of tetrahydrofuran is treated dropwise under a nitrogen atmosphere over a period of 120 minutes with a solution of 483 g of methyl 3-bromo-6-(phenylthio)-benzoate in 1 litre of tetrahydrofuran. The mixture is stirred for a further 4 hours under reflux. The solution is cooled to 5° C and treated dropwise over a period of 3 hours with 700 ml of 3-N hydrochloric acid. After the addition of approximately 5 litres of water, the mixture is extracted with ether. The organic solution is washed with water and dried over magnesium sulphate. There is obtained crude 3-bromo-6-(phenylthio)-benzyl alcohol as a yellow oil.

reactant | lithium borohydride | 65 g | [BH4-].[Li+]
reactant | methyl 3-bromo-6-(phenylthio)-benzoate | 483 g | BrC=1C=C(C(=O)OC)C(=CC1)SC1=CC=CC=C1 | C14H11BrO2S
reactant | hydrochloric acid | Cl | ClH
reactant | water | approximately 5 litres | O | H2O
solvent | tetrahydrofuran | 1 litre | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 litre | O1CCCC1 | C4H8O
product | 3-bromo-6-(phenylthio)-benzyl alcohol | BrC=1C=C(CO)C(=CC1)SC1=CC=CC=C1 | C13H11BrOS
